US06384282B2
Ni(cod)2 (11.0 mg, 0.040 mmol) and DPPF (44.0 mg, 0.080 mmol) were suspended in 0.3 mL of toluene in a screw-capped vial. The vial was sealed with a cap containing a PTFE septum and removed from the dry box. 1,3-Cyclohexadiene (160 mg, 2.00 mmol), morpholine (183 mg, 2.10 mmol) and trifluoroacetic acid (9.0 mg, 0.080 mmol) were added to the reaction mixture by syringe. The reaction mixture was stirred at room temperature for 14 h. The volatile compounds were evaporated under reduced pressure, and the residue was adsorbed onto silica gel. The product was eluted with 90% ethyl acetate/hexenes to give 274 mg (82%) of 4-(2-cyclohexenyl)morpholine: 1H NMR (500 MHz, [D]chloroform, 25° C.): δ=5.84-5.83 (m, 1H; H-C3), 5.68-5.66 (m, 1H; H-C2), 3.74-3.72 (m, 4H; CH2), 3.17 (brs, 1H; H-C1), 2.64-2.56 (m, 4H; CH2), 2.00-1.98 (m, 2H; CH2), 1.82-1.80 (m, 2H; CH2), 1.57-1.54 (m, 2H; CH2); 13C{1H} NMR (125 MHz, [D]chloroform, 25° C.): δ=130.08, 128.77, 67.34, 60.22, 49.12, 25.15, 23.07, 21.29.

reactant | 1,3-Cyclohexadiene | 2.00 mmol, 160 mg | C1=CC=CCC1 | C6H8
reactant | morpholine | 2.10 mmol, 183 mg | N1CCOCC1 | C4H9NO
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Ni(cod)2 | 0.040 mmol, 11.0 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
catalyst | DPPF | 0.080 mmol, 44.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | trifluoroacetic acid | 0.080 mmol, 9.0 mg | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-cyclohexenyl)morpholine | 274 mg, 82% | C1(C=CCCC1)N1CCOCC1 | C10H17NO
